US06884774B2
To a mixture of ethyl 4-(piperazinyl)benzoate (2.00 g) and 4-methylenecyclohexan-1-one (0.98 g) in a mixture of methanol (40 ml) and acetic acid (1.47 ml) was portionwise added sodium cyanoborohydride (644 mg) with stirring under ice-cooling and the mixture was stirred at ambient temperature overnight. To the reaction mixture was added water (200 ml) and the mixture was adjusted to pH 8-9 with saturated aqueous sodium hydrogen carbonate. The resulting precipitates were collected and chromatographed on silica gel (200 ml) eluting with a mixture of n-hexane and ethyl acetate (2:1 v/v). The fractions containing the desired compound were collected and evaporated under reduced pressure to give ethyl 4-[4-(4-methylenecyclohexyl)-1-piperazinyl]benzoate (1.39 g).

reactant | ethyl 4-(piperazinyl)benzoate | 2.00 g | N1(CCNCC1)C1=CC=C(C(=O)OCC)C=C1 | C13H18N2O2
reactant | 4-methylenecyclohexan-1-one | 0.98 g | C=C1CCC(CC1)=O | C7H10O
reactant | sodium cyanoborohydride | 644 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 40 ml | CO | CH4O
solvent | acetic acid | 1.47 ml | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
product | ethyl 4-[4-(4-methylenecyclohexyl)-1-piperazinyl]benzoate | 1.39 g | C=C1CCC(CC1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C20H28N2O2
